US07442696B2
This compound was prepared using General Method 1 (EXAMPLE 1) from methyl 2-amino-6-chlorobenzoate (1.7 g, 9.2 mmol) and methyl magnesium bromide (3 M in diethyl ether, 12.2 mL) in 45 mL ether to afford 1.5 g (89%) of 2-(2-amino-6-chlorophenyl)propan-2-ol after flash chromatography (5:3 hexanes:ethyl acetate).

reactant | methyl 2-amino-6-chlorobenzoate | 9.2 mmol, 1.7 g | NC1=C(C(=O)OC)C(=CC=C1)Cl | C8H8ClNO2
reactant | methyl magnesium bromide | 3 M, 12.2 mL | C[Mg]Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 45 mL | CCOCC | C4H10O
product | 2-(2-amino-6-chlorophenyl)propan-2-ol | 1.5 g, 89% | NC1=C(C(=CC=C1)Cl)C(C)(C)O | C9H12ClNO
